US04125729
Methyl α-(phenylthio)-α-[p-(p-chlorophenoxy)phenyl]acetate
Methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate (7.11 g) is reacted with 2.75 g of thiophenol in methanol, as in Example 16, to yield a yellow oil. After a brief distillation at 0.02 mm to remove volatile impurities, the residue is evaporatively distilled (173° C at 0.01 mm) to afford the product as a colorless oil which solidifies, mp 64°-68.5° C. A portion is recrystallized from hexane to give white plates, mp 71.5°-72.5° C.

reactant | Methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
reactant | thiophenol | 2.75 g | C1(=CC=CC=C1)S | C6H6S
solvent | methanol | CO | CH4O
product | Methyl α-(phenylthio)-α-[p-(p-chlorophenoxy)phenyl]acetate | C1(=CC=CC=C1)SC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C21H17ClO3S
